* Generated by Xic from cell ERSFQ_MERGE

* Author: L. Schindler
* Version: 0.1
* Last modification date: 11 May 2018
* Last modification by: L. Schindler

* Copyright (c) 2018-2019 Lieze Schindler, Stellenbosch University

* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:

* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.

* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.

*For questions about the library, contact Lieze Schindler, 17528283@sun.ac.za

.tran 0.5p 1000p 0 0.25p UIC
.include ERSFQ_MERGE_models.inc
.param Bc0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*Bc0
.param B0=5.5, B1=2, B2=2.5, B3=3.5
.param R0=B0Rs/B0, R1=B0Rs/B1, R2=B0Rs/B2, R3=B0Rs/B3
B0 5 8 22 jjmit area=B0
B1 6 7 23 jjmit area=B1
B2 6 15 24 jjmit area=B2
B3 10 17 25 jjmit area=B3
B4 11 12 26 jjmit area=B1
B5 11 20 27 jjmit area=B2
L0 BIAS1 5 400p
L1 14 7 1p
L2 13 8 1p
L3 IN1 6 2p
L4 7 9 0.7p
L5 15 0 0.2p
L6 16 0 1p
L7 9 8 0.25p
L8 8 10 2.9p
L9 10 OUT 2p
L10 19 12 1p
L11 17 0 0.2p
L12 18 0 1p
L13 IN2 11 2p
L14 12 9 0.7p
L15 20 0 0.2p
L16 21 0 1p
R0 5 13 R0
R1 6 14 R1
R2 6 16 R2
R3 10 18 R3
R4 11 19 R1
R5 11 21 R2
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)

* YBCO
